US08084620B2
A mixture of 7-(4-methylpiperazine-1-carbonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole-1-carboxamide (prepared according to the procedure of Step 1 of Example 2-1, 75 mg, 0.065 mmol), 6-bromo-7-fluoro-1H-indole (prepared according to U.S. pat. appl. 2007/112005, 18.7 mg, 0.087 mmol), and 2 M aqueous sodium carbonate (0.081 mL, 0.162 mmol) in toluene (0.8 mL) and ethanol (0.2 mL) was purged with argon, treated with tetrakis(triphenylphosphine)palladium (7.5 mg, 0.007 mmol) and heated at 90° C. After 16 h, the mixture was cooled to rt. The residue was purified by preparative HPLC. The resulting TFA salt was partitioned between NaHCO3 (aq) and EtOAc, and the organic extracts were dried and concentrated to provide 4-(7-fluoro-1H-indol-6-yl)-7-(4-methylpiperazine-1-carbonyl)-9H-carbazole-1-carboxamide as an off-white solid (9 mg, 30%). 1H NMR (400 MHz, methanol-d4) δ 7.99 (d, J=7.5 Hz, 1H) 7.68 (d, J=0.9 Hz, 1H) 7.52 (d, J=7.9 Hz, 1H) 7.39 (d, J=3.5 Hz, 1H) 7.25 (dd, J=8.1, 1.1 Hz, 1H) 7.21 (d, J=7.5 Hz, 1H) 7.08 (dd, J=8.1, 6.4 Hz, 1H) 6.92 (dd, J=8.1, 1.5 Hz, 1H) 6.63 (t, J=3.3 Hz, 1H) 3.77 (br. s., 2H) 3.49 (br. s., 2H) 2.51 (br. s., 2H) 2.39 (br. s., 2H) 2.30 (s, 3H). Mass spectrum m/z 470.1 (M+H)+.

reactant | 7-(4-methylpiperazine-1-carbonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole-1-carboxamide | CN1CCN(CC1)C(=O)C1=CC=C2C=3C(=CC=C(C3NC2=C1)C(=O)N)B1OC(C(O1)(C)C)(C)C | C25H31BN4O4
reactant | 6-bromo-7-fluoro-1H-indole | 0.087 mmol, 18.7 mg | BrC1=CC=C2C=CNC2=C1F | C8H5BrFN
reactant | sodium carbonate | 0.162 mmol, 2 M, 0.081 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.007 mmol, 7.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(7-fluoro-1H-indol-6-yl)-7-(4-methylpiperazine-1-carbonyl)-9H-carbazole-1-carboxamide | 9 mg, 30% | FC=1C(=CC=C2C=CNC12)C1=CC=C(C=2NC3=CC(=CC=C3C12)C(=O)N1CCN(CC1)C)C(=O)N | C27H24FN5O2
